US06900215B2
3-(5-Bromo-2-fluorophenyl)pyridazine (80.6 mg, 0.3 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (0.45 mmol) by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol, then crystallisation from methanol, gave 3-[4-fluoro-3-(pyridazin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 9.24 (1H, dd, J 5 and 1), 8.92 (1H, d, J 7), 8.48 (1H, dd, J 7 and 2), 8.16 (1H, s), 8.07-8.11 (1H, m), 7.66-7.71 (1H, m), 7.63 (1H, dd, J 9 and 5), 7.45 (1H, dd, J 11 and 9), 7.30 (1H, d, J 7); m/z (ES+) 359 (M++H).

reactant | 3-(5-Bromo-2-fluorophenyl)pyridazine | 0.3 mmol, 80.6 mg | BrC=1C=CC(=C(C1)C=1N=NC=CC1)F | C10H6BrFN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.45 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[4-fluoro-3-(pyridazin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C=2N=NC=CC2 | C17H9F4N5
